US04186135
In the same manner as described in Example 17, by reaction of 1,4-benzodioxane-5-carbonyl chloride with the 1-ethyl-2-aminomethyl pyrrolidine, the N-(1-ethyl-2-pyrrolidylmethyl)-1,4-benzodioxane-5-carboxamide hydrochloride was obtained (M.P.: 149°-150° C.).

reactant | 1,4-benzodioxane-5-carbonyl chloride | O1CCOC2=C1C=CC=C2C(=O)Cl | C9H7ClO3
reactant | 1-ethyl-2-aminomethyl pyrrolidine | C(C)N1C(CCC1)CN | C7H16N2
product | N-(1-ethyl-2-pyrrolidylmethyl)-1,4-benzodioxane-5-carboxamide hydrochloride | Cl.C(C)N1C(CCC1)CNC(=O)C1=CC=CC=2OCCOC21 | InChI=1S/C16H22N2O3.ClH/c1-2-18-8-4-5-12(18)11-17-16(19)13-6-3-7-14-15(13)21-10-9-20-14;/h3,6-7,12H,2,4-5,8-11H2,1H3,(H,17,19);1H
